US08114993B2
2,5-Diphenylbenzoic Acid (Entry 12, Table III)
Palladium acetate (5.6 mg, 0.025 mmol), 3-phenylbenzoic acid (99 mg, 0.5 mmol) and 4-chlorobenzene (169 mg, 1.5 mmol), butyldi-1-adamantylphosphine (19.2 mg, 0.05 mmol), Cs2CO3 (358 mg, 1.1 mmol), molecular sieves 3 Å (155 mg) and anhydrous DMF (2.5 mL). After flash chromatography and preparative HPLC 97 mg (71%) of a white solid was obtained. Analytical data are consistent with that of previously reported data.6 1H NMR (300 MHz, CDCl3) δ 7.36-7.50 (m, 10H), 7.63-7.66 (m, 2H), 7.75-7.78 (m, 1H), 8.15-8.18 (m, 1H). Carboxylate proton signal was not observed. The 1H NMR spectrum is shown in FIG. 43.

reactant | 3-phenylbenzoic acid | 0.5 mmol, 99 mg | C1(=CC=CC=C1)C=1C=C(C(=O)O)C=CC1 | C13H10O2
reactant | 4-chlorobenzene | 1.5 mmol, 169 mg | ClC1=CC=CC=C1 | C6H5Cl
reactant | butyldi-1-adamantylphosphine | 0.05 mmol, 19.2 mg | C(CCC)P(C12CC3CC(CC(C1)C3)C2)C23CC1CC(CC(C2)C1)C3 | C24H39P
reactant | Cs2CO3 | 1.1 mmol, 358 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
catalyst | Palladium acetate | 0.025 mmol, 5.6 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
product | 2,5-Diphenylbenzoic Acid | 97 mg, 71% | C1(=CC=CC=C1)C1=C(C(=O)O)C=C(C=C1)C1=CC=CC=C1 | C19H14O2
